### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): minimum degree of nontrivial tree is one

### PR DESCRIPTION
**Pull request by LLaurance**
Add basic facts about nontrivial preconnected SimpleGraphs and that a nontrivial tree has a vertex of degree one.

The motivation for this is to ultimately show that any connected graph contains a vertex that, when removed, leaves the graph connected. Any connected graph has a spanning tree which contains a vertex of degree one that fulfils the role of the vertex to be removed.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 1]
```diff
@@ -233,4 +233,25 @@ lemma isTree_iff_connected_and_card [Finite V] :
...
+    simp at hle
+    omega
+  · linarith [h.isConnected.preconnected.minDegree_pos_of_nontrivial]
+
+/-- A nontrivial tree has a vertex of degree one. -/
+lemma IsTree.exists_vert_degree_one_of_nontrivial [Fintype V] [Nontrivial V] [DecidableRel G.Adj]
+    (h : G.IsTree) : ∃ v, G.degree v = 1 := by
+  use G.exists_minimal_degree_vertex.choose
+  rw [← G.exists_minimal_degree_vertex.choose_spec]
+  exact h.minDegree_eq_one_of_nontrivial
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: I think here the proof would be more readable as
```suggestion
    (h : G.IsTree) : ∃ v, G.degree v = 1 := by
  obtain ⟨v, hv⟩ := G.exists_minimal_degree_vertex
  rw [← hv]
  exact ⟨v, h.minDegree_eq_one_of_nontrivial⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 2]
```diff
@@ -233,4 +233,25 @@ lemma isTree_iff_connected_and_card [Finite V] :
     ← edgeFinset_card, add_lt_add_iff_right]
   exact Finset.card_lt_card <| by simpa [deleteEdges]
 
+/-- The minimum degree of all vertices in a nontrivial tree is one. -/
+lemma IsTree.minDegree_eq_one_of_nontrivial (h : G.IsTree) [Fintype V] [inst : Nontrivial V]
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: Generally it's bad form to name the instance argument. I think if you use `Fintype.one_lt_card` below instead of the `iff` version then you don't need the name anyway.

**Review by eric-wieser — COMMENTED** [review]
Thanks, this looks good!

**Comment by LLaurance** [comment]
Thank you for your review!

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean (hunk 2 above)
Comment (LLaurance) [reply Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: Resolved: https://github.com/leanprover-community/mathlib4/pull/28312/commits/55852d5e94ff2bf7ad19e71c5d8b615933cfb5f6

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean (hunk 1 above)
Comment (LLaurance) [reply Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: Resolved: https://github.com/leanprover-community/mathlib4/pull/28312/commits/dabe318121098497d9207a8ca5f52c72ee6d5e82

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 3]
```diff
@@ -233,4 +233,26 @@ lemma isTree_iff_connected_and_card [Finite V] :
     ← edgeFinset_card, add_lt_add_iff_right]
   exact Finset.card_lt_card <| by simpa [deleteEdges]
 
+/-- The minimum degree of all vertices in a nontrivial tree is one. -/
+lemma IsTree.minDegree_eq_one_of_nontrivial (h : G.IsTree) [Fintype V] [Nontrivial V]
+    [DecidableRel G.Adj] : G.minDegree = 1 := by
+  by_cases q : 2 ≤ G.minDegree
+  · have := @Fintype.one_lt_card V
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: commenting this out doesn't break the omega, is it necessary?

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 4]
```diff
@@ -233,4 +233,26 @@ lemma isTree_iff_connected_and_card [Finite V] :
...
+    have := h.card_edgeFinset
+    have := G.sum_degrees_eq_twice_card_edges
+    have hle : ∑ v : V, 2 ≤ ∑ v, G.degree v := by
+      gcongr
+      exact le_trans q (G.minDegree_le_degree _)
+    simp at hle
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: This simp should be replaced by a `simp only`, see https://leanprover-community.github.io/extras/simp.html#non-terminal-simps

**Comment by vlad902** [comment]
LGTM otherwise

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean (hunk 3 above)
Comment (LLaurance) [reply Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: It is not necessary. I did not notice this after proving the lemma without omega.
Resolved: https://github.com/leanprover-community/mathlib4/pull/28312/commits/67c61554f24f04892b7512b5ca5a6811cc0f6cf8

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean (hunk 4 above)
Comment (LLaurance) [reply Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: Resolved: https://github.com/leanprover-community/mathlib4/pull/28312/commits/67c61554f24f04892b7512b5ca5a6811cc0f6cf8

**Comment by LLaurance** [comment]
Thank you for your review!

**Comment by vlad902** [comment]
Thanks, one more thing I just noticed, [this](https://github.com/leanprover-community/mathlib4/pull/28312#issuecomment-3180961371) message shows that the amount of imports for Acyclic.lean increased substantially, which is generally undesirable. This suggests to me that either the lemmas you're defining should live elsewhere, or that the definitions you want to import could be defined with fewer imports and the rest of the file you don't want to import could then live in a separate file that depends on them. I haven't looked too much at the relevant files to see if there is a simple change to undo the import increase.

**Comment by b-mehta** [comment]
I haven't had a chance to look in detail, but I think it's okay for this new import to exist; Acyclic is a leaf file, and Tree material importing the degree-sum formula feels mathematically reasonable to me. But if there's a simple fix, then I'm happy with that too.

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
